US04918091
5-[4-(2-Aminoethoxy)Benzyl]-2,4-Thiazolidine-dione
A solution of 5-[4-(2-Azidoethoxy)Benzyl]2,4-Thiazolidinedione (5 g) in Methanol (100 ml) was reduced under hydrogen at ambient temperature and pressure in the presence of 10% palladium on charcoal (5 g) for 18 hours. The mixture was filtered through diatomaceous earth and the filter pad was washed exhaustively with Methanol. The combined filtrates was evaporated to dryness under reduced pressure and the title compound (m.p. 175°-6° C.) was obtained as a dihydrate following crystallisation from methanol.

reactant | 5-[4-(2-Azidoethoxy)Benzyl]2,4-Thiazolidinedione | 5 g | N(=[N+]=[N-])CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H12N4O3S
solvent | Methanol | 100 ml | CO | CH4O
catalyst | palladium on charcoal | 5 g | [Pd] | Pd
product | 5-[4-(2-Aminoethoxy)Benzyl]-2,4-Thiazolidine-dione | NCCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H14N2O3S
